US05846985
To hydrazinecarboxaldehyde (1.20 g, 20 mmol) in 100 ml THF, triethylamine (Et3N) (2.63 g, 26 mmol) was added. The mixture was heated at 60° C. to a clear solution and cooled to room temperature. 4-Bromobenzoyl chloride (4.39 g, 20 mmol) was added to the reaction mixture over 20 min. The mixture was refluxed for 1 hr., cooled to room temperature and filtered. The filtrate was concentrated to give a light yellow solid (2-[(4-bromophenyl)carbonyl]-hydrazinecarboxaldehyde).

reactant | hydrazinecarboxaldehyde | 20 mmol, 1.20 g | N(N)C=O | CH4N2O
reactant | triethylamine | 26 mmol, 2.63 g | C(C)N(CC)CC | C6H15N
reactant | 4-Bromobenzoyl chloride | 20 mmol, 4.39 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-[(4-bromophenyl)carbonyl]-hydrazinecarboxaldehyde | BrC1=CC=C(C=C1)C(=O)NNC=O | C8H7BrN2O2
